US03971789
N-(3-Dimethylaminopropyl)-2-(7-trifluoromethyl-4-quinolylamino)benzamide
2-(7-Trifluoromethyl-4-quinolylamino)benzoic acid is converted to the acid chloride which is reached with 3-dimethylaminopropylamine as in Example 1 to give the title compound.

reactant | 2-(7-Trifluoromethyl-4-quinolylamino)benzoic acid | FC(C1=CC=C2C(=CC=NC2=C1)NC1=C(C(=O)O)C=CC=C1)(F)F | C17H11F3N2O2
reactant | 3-dimethylaminopropylamine | CN(CCCN)C | C5H14N2
product | N-(3-Dimethylaminopropyl)-2-(7-trifluoromethyl-4-quinolylamino)benzamide | CN(CCCNC(C1=C(C=CC=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O)C | C22H23F3N4O
